US05338853
Preparation of 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propionyl]hydrazine
Into a 3-necked 100 ml flask was introduced methyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate (4.85 g, 0.02 mole) and 50 ml of methanol. The flask was equipped with a magnetic stirrer, a thermometer and a reflux condenser. The mixture was stirred until all of the solid material dissolved, following which 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionhydrazide (5.85 g, 0.02 mole) was added and the mixture was refluxed for 2 hours. The solid material was filtered off and air dried. The product weighed 2.7 g and had a melting range of 255°-257° C. The infrared scan of the product contained strong carbonyl bands at 1655, 1620, 1590 and 1490 cm-1.

reactant | methyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate | 0.02 mole, 4.85 g | CC1(NC(CC(C1)NC(C(=O)OC)=O)(C)C)C | C12H22N2O3
reactant | 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionhydrazide | 0.02 mole, 5.85 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
solvent | methanol | 50 ml | CO | CH4O
product | 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propionyl]hydrazine | CC1(NC(CC(C1)NC(C(=O)NNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)=O)(C)C)C | C28H46N4O4
